US05500423
2-[4-[3-(Trifluoromethyl)phenyl]-1-piperazinyl]-5,6-dihydro-4H-imidazo [4,5,1-ij]quinoline
A solution of 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline (3.00 g) in 1-[3-(trifluoromethyl)phenyl]piperazine (5 ml) was stirred at 110° C., under nitrogen. After four hrs, chloroform (50 ml) was added, and the solution was stirred under reflux overnight. The reaction mixture was quenched with dilute sodium bicarbonate solution (200 ml) and extracted with chloroform. The combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was evaporated. The residue was purified by high performance liquid chromatography (silica gel; 8:1 dichloromethane-ethyl acetate). The appropriate fractions were collected and evaporated. The residue was recrystallized from ethyl acetate to give 3.0 g (50%) of product, mp 158°-159° C.

reactant | 2-chloro-5,6-dihydro-4H-imidazo[4,5,1-ij]quinoline | 3.00 g | ClC1=NC=2C=CC=C3CCCN1C23 | C10H9ClN2
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-[3-(trifluoromethyl)phenyl]piperazine | 5 ml | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
product | 2-[4-[3-(Trifluoromethyl)phenyl]-1-piperazinyl]-5,6-dihydro-4H-imidazo [4,5,1-ij]quinoline | 3.0 g, 50% | FC(C=1C=C(C=CC1)N1CCN(CC1)C1=NC=2C=CC=C3CCCN1C23)(F)F | C21H21F3N4
